US08937092B2
To a stirred solution of N-(4-amino-2-methylbenzyl)methanesulfonamide (61 mg, 0.285 mmol) in tetrahydrofuran and acetonitrile as co-solvent were added phenylchloroformate (0.04 mL, 0.299 mmol) and pyridine (0.03 mL, 0.342 mmol). The reaction mixture was stirred for 3 h at room temperature. The mixture dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give phenyl 3-methyl-4-(methylsulfonamidomethyl)phenylcarbamate (93 mg, 98%).

reactant | N-(4-amino-2-methylbenzyl)methanesulfonamide | 0.285 mmol, 61 mg | NC1=CC(=C(CNS(=O)(=O)C)C=C1)C | C9H14N2O2S
reactant | phenylchloroformate | 0.299 mmol, 0.04 mL | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | pyridine | 0.342 mmol, 0.03 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | phenyl 3-methyl-4-(methylsulfonamidomethyl)phenylcarbamate | 93 mg, 98% | CC=1C=C(C=CC1CNS(=O)(=O)C)NC(OC1=CC=CC=C1)=O | C16H18N2O4S
